US04349674
N,N'-Diethylcarbamimidothioic acid(3-methyl-2-quinoxalinyl)ester, hydrochloride
2-Chloro-3-methylquinoxaline (15.0 g., 0.084 mole) was dissolved in 225 ml. of acetone, treated with Norit and filtered. The filtrate was added to 11.11 g. (0.084 mole) of 1,3-diethylthiourea in 175 ml. of acetone and the mixture was stirred at room temperature for 51/2 hours. The solid which separated was filtered and washed well with acetone, then with ether and dried to give 18.12 g. (69.7%) of product, m.p. 121.5°-122°.

reactant | 2-Chloro-3-methylquinoxaline | 0.084 mole, 15.0 g | ClC1=NC2=CC=CC=C2N=C1C | C9H7ClN2
reactant | Norit | C | CH4
reactant | 1,3-diethylthiourea | 0.084 mole | C(C)NC(=S)NCC | C5H12N2S
solvent | acetone | CC(=O)C | C3H6O
product | N,N'-Diethylcarbamimidothioic acid(3-methyl-2-quinoxalinyl)ester, hydrochloride | Cl.CC=1C(=NC2=CC=CC=C2N1)SC(NCC)=NCC | InChI=1S/C14H18N4S.ClH/c1-4-15-14(16-5-2)19-13-10(3)17-11-8-6-7-9-12(11)18-13;/h6-9H,4-5H2,1-3H3,(H,15,16);1H
